US07884118B2
In an atmosphere of inert gas, 10.42 mmol of butyllithium (1.6M in hexane) was added dropwise to a solution, cooled to −75° C., of 8.68 mmol (1.20 g) of 1-cyclopentyltetrazole in 27 ml of anhydrous tetrahydrofuran such that the temperature of the reaction mixture did not exceed −70° C. The mixture was stirred at this temperature for 30 minutes, and 8.68 mmol (2.2 g) of iodine in 4 ml of anhydrous tetrahydrofuran was then added dropwise. After 30 minutes of stirring at this temperature, the reaction mixture was warmed to 23° C., and water was added carefully. The solvent was extracted with ethyl acetate and the combined organic phase was washed with sodium thiosulphate solution and saturated sodium chloride solution and dried over sodium sulphate. The solid obtained after distillative removal of solvent under reduced pressure was stirred with diisopropyl ether and yielded 1.55 g (68%) of 1-cyclopentyl-5-iodotetrazole with a melting point of 119° C.

reactant | butyllithium | 10.42 mmol, 1.6M | C(CCC)[Li]
reactant | 1-cyclopentyltetrazole | 8.68 mmol, 1.20 g | C1(CCCC1)N1N=NN=C1 | C6H10N4
reactant | iodine | 8.68 mmol, 2.2 g | II | I2
reactant | water | O | H2O
solvent | tetrahydrofuran | 27 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 1-cyclopentyl-5-iodotetrazole | 1.55 g, 68% | C1(CCCC1)N1N=NN=C1I | C6H9IN4
